** sch_path: /foss/designs/spike_130/py_test/comuncation_tb/comunication_tb1.sch
**.subckt comunication_tb1
x1 net1 vn vo vp GND ota_1_stage
V1 vn GND PWL(0 0 200n 1.8 400n 0 600n 1.8 800n 0 1u 1.8)
V2 vp GND 1
V3 net1 GND 1.8
R1 vo GND 10G m=1
**** begin user architecture code


.control
 tran .5n 1u uic
 write comunication_tb1.raw
.endc
.save all


.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_ota_1stage/ota_1_stage.sym # of pins=5
** sym_path: /foss/designs/spike_130/designs/subcells/core_ota_1stage/ota_1_stage.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_ota_1stage/ota_1_stage.sch
.subckt ota_1_stage vdd vn vout vp vss
*.iopin vdd
*.ipin vp
*.opin vout
*.ipin vn
*.iopin vss
XM1 net1 vp net3 GND sky130_fd_pr__nfet_01v8 L=0.15 W=4.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 net1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 vout net1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 vout vn net3 GND sky130_fd_pr__nfet_01v8 L=0.15 W=4.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net3 net2 vss GND sky130_fd_pr__nfet_01v8 L=0.45 W=5.4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 net2 net2 vss GND sky130_fd_pr__nfet_01v8 L=0.45 W=5.4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
I4 vdd net2 11u
.ends

.GLOBAL GND
.end
